data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3289,3727,[CH3:10][C:11](=[O:12])[C:13]#[N+:14][N-:15][C:16]#[N:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:15]([C:16]#[N:17])[N:14]=[C:13]1[C:11]([CH3:10])=[O:12],water,298.15,10.908039995371563,-35.094454076275284
3311,3750,[CH3:10][CH-:11][NH+:12]=[C:13]([C:14]#[N:15])[C:16]#[N:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:13]([C:14]#[N:15])([C:16]#[N:17])[NH:12][CH:11]1[CH3:10],water,298.15,26.555287353803173,-6.188231490248874
1737,1924,[CH3:11][NH:12][C:13](=[O:14])[C-:15]([NH+:16]=[C:17]([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[C:25](=[O:26])[O:27][CH3:28].[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]([F:8])([F:9])[F:10]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:25](=[O:26])[O:27][CH3:28])[NH:16][C:17]1([CH3:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,11.868076334650311,-37.06113711546117
1066,1163,[CH3:14][NH:15][C:16](=[O:17])[CH-:18][N+:19]#[C:20][C:21](=[O:22])[O:23][CH3:24].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[CH:18]([C:16]([NH:15][CH3:14])=[O:17])[N:19]=[C:20]2[C:21](=[O:22])[O:23][CH3:24],water,298.15,18.206771147007714,-40.05286822610457
2267,2512,[CH3:15][O:16][C:17](=[O:18])[C:19]([C:20]([CH3:21])=[O:22])=[N+:23]([CH3:24])[C-:25]([CH3:26])[C:27]#[N:28].[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]#[C:7][C:8]([F:9])([F:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]2=[C:7]([C:8]([F:9])([F:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:25]([CH3:26])([C:27]#[N:28])[N:23]([CH3:24])[C:19]2([C:17]([O:16][CH3:15])=[O:18])[C:20]([CH3:21])=[O:22],water,298.15,27.96090028399602,-37.55205535300188
4947,5633,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[O+:17]=[C:18]([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:18]([C:19]([CH3:20])=[O:21])([c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[O:17][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,11.220957217855393,-35.81742027007774
2719,3019,[CH3:1][C:2]1([C:3]([F:4])([F:5])[F:6])[C:7]#[C:8][C:9]([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[CH2:22][CH2:23][CH2:24][CH2:25]1.[CH3:26][NH:27][C:28](=[O:29])[C:30](=[O+:31][N-:32][C:33]#[N:34])[C:35](=[O:36])[NH:37][CH3:38]>>[CH3:1][C:2]1([C:3]([F:4])([F:5])[F:6])[C:7]2=[C:8]([C:9]([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)([c:16]3[cH:17][cH:18][cH:19][cH:20][cH:21]3)[CH2:22][CH2:23][CH2:24][CH2:25]1)[N:32]([C:33]#[N:34])[O:31][C:30]2([C:28]([NH:27][CH3:26])=[O:29])[C:35](=[O:36])[NH:37][CH3:38],water,298.15,11.813760835428631,-49.45190765162192
113,129,[CH3:12][C:13](=[O:14])[C:15]#[N+:16][NH-:17].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[NH:17][N:16]=[C:15]2[C:13]([CH3:12])=[O:14],water,298.15,14.70822106760192,-48.30213160233977
2454,2722,[CH3:15][O:16][C:17](=[O:18])[C:19](=[NH+:20][C-:21]([C:22]([CH3:23])=[O:24])[C:25](=[O:26])[O:27][CH3:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[N:1]#[C:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]#[C:9][CH2:10][CH2:11][CH2:12][CH2:13][CH2:14]1>>[N:1]#[C:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]2=[C:9]([CH2:10][CH2:11][CH2:12][CH2:13][CH2:14]1)[C:21]([C:22]([CH3:23])=[O:24])([C:25](=[O:26])[O:27][CH3:28])[NH:20][C:19]2([C:17]([O:16][CH3:15])=[O:18])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,22.737668692601403,-30.228680762884903
459,501,[CH2:11]=[NH+:12][CH-:13][C:14](=[O:15])[O:16][CH3:17].[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([Br:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[CH2:11][NH:12][CH:13]2[C:14](=[O:15])[O:16][CH3:17],water,298.15,10.955185109909122,-44.44597781822213
4784,5462,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH:15]=[NH+:16][C-:17]([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:15]([C:13]([NH:12][CH3:11])=[O:14])[NH:16][C:17]2([C:18](=[O:19])[NH:20][CH3:21])[C:22](=[O:23])[NH:24][CH3:25],water,298.15,23.933483040291705,-8.69901558012896
